US03962378
2-hydroxyethane-phosphonic acid dimethyl ester
600 g of 2-acetoxyethane-phosphonic acid dimethyl ester are heated for 5 hours to 65°-75°C in 600 ml of methanol to which 3 g of sodium had been added. A mixture of methyl acetate/methanol is removed continuously by distillation. The reaction being terminated, the residue is submitted to distillation under reduced pressure, 369 g of 2-hydroxyethane-phosphonic acid dimethyl ester (boiling point: 122°C/0.2 torr) are obtained, corresponding to a yield of 84% in the theoretical.

reactant | 2-acetoxyethane-phosphonic acid dimethyl ester | 600 g | COP(OC)(=O)CCOC(C)=O | C6H13O5P
reactant | sodium | 3 g | [Na] | Na
reactant | methyl acetate methanol | C(C)(=O)OC.CO
solvent | methanol | 600 ml | CO | CH4O
product | 2-hydroxyethane-phosphonic acid dimethyl ester | yield of 84% | COP(OC)(=O)CCO | C4H11O4P
